US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.5 mmol) was in NMP (1 mL) were added powdered KOH (196 mg, 3.5 mmol) and dimethyl-(3-vinyl-phenyl)-amine (147 mg, 1.0 mmol) and the reaction mixture stirred at 100° C. for 16 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was diluted with water (15 mL) and extracted with EtOAc (3×25 mL). The combined organic layer was washed with water (5×20 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (0-3% MeOH-DCM) to yield {3-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-phenyl}-dimethyl-amine. 1H NMR (CDCl3, freebase) δ (ppm): 7.21 (m, 2H), 7.18 (dd, 1H), 7.0 (d, 1H), 6.6 (d, 1H), 6.43 (d, 1H), 6.21 (s, 1H), 4.2 (t, 2H), 3.71 (s, 2H), 2.90 (t, 2H), 2.85 (s, 3H), 2.80 (m, 4H), 2.57 (s, 6H), 2.41 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.5 mmol, 100 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 3.5 mmol, 196 mg | [OH-].[K+]
reactant | dimethyl-(3-vinyl-phenyl)-amine | 1.0 mmol, 147 mg | CN(C1=CC(=CC=C1)C=C)C | C10H13N
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
solvent | water | 15 mL | O | H2O
product | {3-[2-(2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-yl)-ethyl]-phenyl}-dimethyl-amine | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=C(C=CC2)N(C)C)CC1 | C23H29N3
